US06521643B1
To a solution of N,N′-bis(tert-butoxycarbonyl)-N″-(1-(4-methylpyridin-2-yl)pyrrolidin-3-yl)guanidine (210 mg) in dichloromethane (4 ml) was added a solution of hydrogen chloride in 1,4-dioxane (4N, 4 ml), and the mixture was stirred at ambient temperature for 24 hours. The solvent was evaporated under reduced pressure. To the residue was added 10% methanol in ethyl acetate (50 ml). The resultant precipitate was collected by filtration and dried under reduced pressure to give (1-(4-methylpyridin-2-yl)-pyrrolidin-3-yl)guanidine dihydrochloride (140 mg).

reactant | N,N′-bis(tert-butoxycarbonyl)-N″-(1-(4-methylpyridin-2-yl)pyrrolidin-3-yl)guanidine | 210 mg | C(C)(C)(C)OC(=O)NC(=NC1CN(CC1)C1=NC=CC(=C1)C)NC(=O)OC(C)(C)C | C21H33N5O4
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 4N, 4 ml | O1CCOCC1 | C4H8O2
product | (1-(4-methylpyridin-2-yl)-pyrrolidin-3-yl)guanidine dihydrochloride | 140 mg | Cl.Cl.CC1=CC(=NC=C1)N1CC(CC1)NC(=N)N | InChI=1S/C11H17N5.2ClH/c1-8-2-4-14-10(6-8)16-5-3-9(7-16)15-11(12)13;;/h2,4,6,9H,3,5,7H2,1H3,(H4,12,13,15);2*1H
